US04837217
Preparation of 2-t-butyl-4-chloro-5-[4-(1,1-dimethyl-2-propoxyethoxy)-benzyloxy]-3(2H)-pyridazinone (Compound No. 615)
By using 2.0 g of 2-t-butyl-4-chloro-5-hydroxy-3(2H)-pyridazinone and 3.0 g of 4-(1,1-dimethyl-2-propoxyethoxy)benzyl bromide and similarly to the procedures in Preparation Example 13, 2.1 g of the aimed product was obtained as an oil.

reactant | 2-t-butyl-4-chloro-5-hydroxy-3(2H)-pyridazinone | 2.0 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)O | C8H11ClN2O2
reactant | 4-(1,1-dimethyl-2-propoxyethoxy)benzyl bromide | 3.0 g | CC(COCCC)(OC1=CC=C(CBr)C=C1)C | C14H21BrO2
product | 2-t-butyl-4-chloro-5-[4-(1,1-dimethyl-2-propoxyethoxy)-benzyloxy]-3(2H)-pyridazinone | 2.1 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)OCC1=CC=C(C=C1)OC(COCCC)(C)C | C22H31ClN2O4
